US08012998B2
d) 5-Chloro-2-{(S)-1-[(3R,4S)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-pyridine (XII-B-11)
To a solution of 2-{(S)-1-[(3R,4S)-1-benzyl-4-(4-chloro-phenyl)-pyrrolidin-3yl]-ethoxy}-5-chloro-pyridine 220 mg (0.51 mmol) dissolved in toluene (5 mL) were added 0.17 mL (1.53 mmol) of 1-chloroethyl chloroformate and 0.27 mL (1.53 mmol) of Hunig's base. The reaction mixture was heated at 100° C. for one hour. After cooling down to RT, volatiles were removed under vacuo and the crude was dissolved in MeOH (10 mL). The reaction mixture was heated at 85° C. for 30 minutes and after cooling down to RT, volatiles were removed under vacuo and the residue was directly purified on column chromatography (SiO2, CH2Cl2/MeOH 9:1) yielded 110 mg (62%) of the title compound as a light yellow oil. ES-MS m/e: 337.1 (M+H+).

reactant | 2-{(S)-1-[(3R,4S)-1-benzyl-4-(4-chloro-phenyl)-pyrrolidin-3yl]-ethoxy}-5-chloro-pyridine | 0.51 mmol, 220 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC=C(C=C1)Cl)[C@H](C)OC1=NC=C(C=C1)Cl | C24H24Cl2N2O
reactant | 1-chloroethyl chloroformate | 1.53 mmol, 0.17 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | Hunig's base | 1.53 mmol, 0.27 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-{(S)-1-[(3R,4S)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-pyridine | 110 mg, 62% | ClC=1C=CC(=NC1)O[C@@H](C)[C@H]1CNC[C@@H]1C1=CC=C(C=C1)Cl | C17H18Cl2N2O
